US05688808
This compound was prepared in a manner similar to that described for 3-bromo-5-fluorobenzonitrile from commercially available 2,6-dibromotoluene (1.80 g, 7.20 mmol), DMF (11 mL), pyridine (1.1 mL), and copper (I) cyanide (0.52 g, 5.76 mmol). The crude product was purified by flash column chromatography (100 mL silica, hexane) to afford 50 mg (35%) of 3-bromo-2-methylbenzonitrile. Data for 3-bromo-2-methylbenzonitrile: 1H NMR (400 MHz, acetone-d6) 7.88 (d, J=8.0, 1H), 7.73 (d, J=8.0, 1H), 7.32 (t, J=15.8, 7.9, 1H), 2.58 (s, 3H).

reactant | 3-bromo-5-fluorobenzonitrile | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | 2,6-dibromotoluene | 7.20 mmol, 1.80 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | DMF | 11 mL | CN(C)C=O | C3H7NO
reactant | copper (I) cyanide | 5.76 mmol, 0.52 g | [Cu]C#N
solvent | pyridine | 1.1 mL | N1=CC=CC=C1 | C5H5N
product | 3-bromo-2-methylbenzonitrile | 50 mg, 35% | BrC=1C(=C(C#N)C=CC1)C | C8H6BrN
